US07812020B2
4-(4,6-Dimethyl-pyridin-2-yl)-morpholine
2-Amino-4,6-dimethylpyridine (50 g), bis(2-chloroethyl)ether (57.5 mL), sodium iodide (6.13 g) and triethylamine (137 mL) were mixed in dry N,N-dimethylformamide (1 L) under argon and heated to 150° C. for 16 hours. Water/brine/saturated aqueous sodium bicarbonate (2:1:1, 750 mL) were added to the cooled reaction mixture and it was extracted with ethyl acetate (5×200 mL). The combined organic phases were concentrated in vacuo to app. 500 mL. Water (500 mL) and concentrated aqueous hydrochloric acid (35 mL) were added, the phases separated and the aqueous phase washed with ethyl acetate (200 mL). The aqueous phase was made basic with the addition of concentrated aqueous sodium hydroxide (50 mL) and extracted with isopropyl acetate (5×200 mL). The organic phases was dried over magnesium sulfate and concentrated in vacuo to furnish 44.0 g (56% yield) of the title compound as a black oil. The crude product was used without further purification. GC-MS (m/z) 192 (M+); tR=5.60. 1H NMR (500 MHz, DMSO-d6): 2.08 (s, 3H), 2.26 (s, 3H), 3.39 (m, 4H), 3.68 (m, 4H), 6.05 (s, 1H), 6.44 (s, 1H).

reactant | 2-Amino-4,6-dimethylpyridine | 50 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | bis(2-chloroethyl)ether | 57.5 mL | ClCCOCCCl | C4H8Cl2O
reactant | sodium iodide | 6.13 g | [I-].[Na+]
reactant | Water brine | 750 mL | O.[Cl-].[Na+].O
solvent | N,N-dimethylformamide | 1 L | CN(C=O)C | C3H7NO
solvent | triethylamine | 137 mL | C(C)N(CC)CC | C6H15N
product | 4-(4,6-Dimethyl-pyridin-2-yl)-morpholine | 44.0 g, 56% yield | CC1=CC(=NC(=C1)C)N1CCOCC1 | C11H16N2O
